US07115615B2
4-(6-chloro-2,3-methylenedioxyanilino)-7-[3-(4-cyanomethylpiperazin-1-yl)propoxy]-6-methoxyquinazoline
A mixture of 4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline (0.19 g), 2-chloroacetonitrile (0.038 ml), potassium iodide (0.020 g), potassium carbonate (0.139 g) and DMF (2.5 ml) was stirred at ambient temperature for 16 hours. The reaction mixture was partitioned between ethyl acetate and water. The organic phase was washed with water and with brine, dried over magnesium sulphate and evaporated. The crude product was purified by column chromatography on silica using a 93:7 mixture of methylene chloride and methanol as eluent. There was thus obtained the title compound (0.13 g) as a solid; NMR Spectrum: (DMSOd6 and CF3CO2D) 2.3 (m, 2H), 2.6 (m, 2H), 3.05 (m, 2H), 3.15 (m, 2H), 3.35 (m, 2H), 3.65 (m, 2H), 3.9 (s, 2H), 4.05 (s, 3H), 4.35 (m, 2H), 6.15 (s, 2H), 7.05 (d, 1H), 7.15 (d, 1H), 7.4 (s, 1H), 8.15 (s, 1H), 8.9 (s, 1H); Mass Spectrum: [M−H]− 509 and 511; Elemental Analysis: Found C, 58.41; H, 5.62; N, 15.93. C25H27ClN6O4 0.2H2O requires C, 58.35; H, 5.37; N, 16.33%.

reactant | 4-(6-chloro-2,3-methylenedioxyanilino)-6-methoxy-7-(3-piperazin-1-ylpropoxy)quinazoline | 0.19 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=C(C=C13)OC)OCCCN1CCNCC1)OCO2 | C23H26ClN5O4
reactant | 2-chloroacetonitrile | 0.038 ml | ClCC#N | C2H2ClN
reactant | potassium iodide | 0.020 g | [I-].[K+]
reactant | potassium carbonate | 0.139 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 4-(6-chloro-2,3-methylenedioxyanilino)-7-[3-(4-cyanomethylpiperazin-1-yl)propoxy]-6-methoxyquinazoline | 0.13 g | ClC1=CC=C2C(=C1NC1=NC=NC3=CC(=C(C=C13)OC)OCCCN1CCN(CC1)CC#N)OCO2 | C25H27ClN6O4
